* ---------- lif_passive PASSIVE neuron subcircuit (no op-amps) ----------
.subckt lif_passive_passive mem vref vdd comp_pulse sum
* Sum node connection (passive: sum connects directly to membrane)
Rsum sum mem 1

* Passive RC membrane (no op-amp)
* tau_m = 1.2e+05 * 1e-08 = 1.200 ms
Cmem mem 0 1e-08
Rleak mem vref 120000.0

* Threshold comparator (behavioral, with hysteresis)
* Threshold = Vref + 0.800V = 3.300V
.param VLO=0.0 VHI=5.0
.param VSW=0.02
Bcomp comp_raw 0 V = VLO + (VHI - VLO) * (0.5 * (1 + tanh((V(mem) - V(vref) - 0.8) / VSW)))
Rcomp comp_raw comp_out 10
Ccomp comp_out 0 1p

* Pulse stretching circuit (tau_pulse = 1.67 ms)
.model DPW D(Is=1e-12 N=1.05 Rs=10 Cjo=1p)
Dpw comp_out comp_pulse DPW
Rpw comp_pulse 0 1.67e+04
Cpw comp_pulse 0 1e-07

* Reset path (pulls membrane to Vref on spike)
Rreset mem reset_node 200.0
Sreset reset_node vref comp_out 0 SWRESET
.model SWRESET SW(Ron=10.0 Roff=1000000000.0 Vt=2.5 Vh=0.1)

.ends
